US08097610B2
A mixture of 2-chloro-5-(methoxyethoxy)toluene (5.00 g; 26.8 mmol), N-bromosuccinimide (4.77 g; 26.8 mmol) and 2,2-azobis(isobutyronitrile) (0.09 g; 0.53 mmol) in carbon tetrachloride (25 ml) was refluxed for 2 hours. After air cooling and filtration the precipitate, the filtrate was condensed under reduced pressure. To the residue were added sodium cyanide (2.77 g; 80.4 mol) and anhydrous N,N-dimethylformamide (30 ml). The mixture was stirred at room temperature for 2 hours. Water and ethyl acetate were added to the reaction solution and extracted. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel (hexane:ethyl acetate=6:1→4:1) to give [2-chloro-5-(methoxymethoxy)phenyl]acetonitrile as colorless oil (2.64 g; 47%).

reactant | 2-chloro-5-(methoxyethoxy)toluene | 26.8 mmol, 5.00 g | ClC1=C(C=C(C=C1)OCCOC)C | C10H13ClO2
reactant | N-bromosuccinimide | 26.8 mmol, 4.77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium cyanide | 80.4 mol, 2.77 g | [C-]#N.[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | [2-chloro-5-(methoxymethoxy)phenyl]acetonitrile | ClC1=C(C=C(C=C1)OCOC)CC#N | C10H10ClNO2
